US05157026
A mixture of 5-Bromo-2-ethyl-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine. (2.0 g), and hydrazine hydrate (15 mL) was heated to 120° C. for 24 hours. Concentration and purification (SiO2, 85/14/2 CH2Cl2 /MeOH/NH4OH) gave 1.80 g of 5-hydrazino-2-ethyl-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine. Reduction in methanol (50 mL) under 1 atm. H2 with W-2 Raney nickle (1 mL, 50% dispersion/water) at RT for 48 hours gave the title compound (1.44 g) after purification (SiO2, 85/14/2 CH2Cl2 /MeOH/NH4OH).

reactant | 5-Bromo-2-ethyl-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine | BrC1=CC(=C2C(=N1)N(C(=N2)CC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2)C | C23H20BrN7
reactant | hydrazine hydrate | 15 mL | O.NN
product | 5-hydrazino-2-ethyl-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine | 1.80 g | N(N)C1=CC(=C2C(=N1)N(C(=N2)CC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2)C | C23H23N9
